US07230023B2
To a solution of diallyl [8-(hydroxymethyl)-1-naphthyl]methyl phosphate (1.1492 g, 3.30 mmol) in acetone (20 ml) obtained from Example 25-(2) was added Jones reagent (a mixture of chromic anhydride (5.34 g) and concentrated sulfuric acid (4.6 ml) diluted with water to 20 ml total volume; 5 ml, ca. 13.2 mmol). The reaction mixture was stirred at room temperature for 90 minutes, then cooled to 0° C., and then 2-propanol (0.5 ml) was added thereto to stop the reaction. The insoluble material was filtered off, and the solvent was distilled off under reduced pressure to give an oily residue. The residue was dried using a vaccum pump, and then subjected to chromatography on a silica gel (30 g) column (eluent; ethyl acetate:dichloromethane=1:10˜3:10) to afford crude 8-[[bis(allyloxy)phosphoryl]oxymethyl]-1-naphthoic acid as an oil. The product was dissolved in dichloromethane (10 ml), and then oxalyl chloride (1 g, 7.88 mmol) and N,N-dimethylformamide (15 μl) were added thereto. After the mixture was stirred at room temperature for 30 minutes, crude 8-[[bis(allyloxy)phosphoryl]oxymethyl]-1-naphthoyl chloride was obtained according to a similar procedure to that described in Example 1-(12). According to a similar procedure to that described in Example 1-(12), 4-[(1E,3E)-4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]-1,3-butadienyl]-3-fluorobenzonitrile (542.7 mg, 1.0 mmol) described in Reference example 1, sodium hydride (55% dispersion in mineral oil; 43 mg, 1.0 mmol), and the crude 8-[[bis(allyloxy)phosphoryl]oxymethyl]-1-naphthoyl chloride obtained above were reacted in tetrahydrofuran (5 ml) and the reaction mixture was worked up to afford, after extraction, the title compound as a crude oil. The crude oil was subjected to chromatography on a silica gel (50 g) column (eluent; ethyl acetate:hexane=1:1˜5:1) to afford the title compound (459.2 mg, 52% yield) as a pale yellow amorphous solid.

reactant | diallyl [8-(hydroxymethyl)-1-naphthyl]methyl phosphate | 3.30 mmol, 1.1492 g | P(=O)(OCC=C)(OCC=C)OCC1=CC=CC2=CC=CC(=C12)CO | C18H21O5P
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | sulfuric acid | 4.6 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-propanol | 0.5 ml | CC(C)O | C3H8O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 8-[[bis(allyloxy)phosphoryl]oxymethyl]-1-naphthoic acid | C(C=C)OP(=O)(OCC=C)OCC=1C=CC=C2C=CC=C(C12)C(=O)O | C18H19O6P
